US07148226B2
1 {4-[2-(2-Cyclopentyl-4,6-dioxo-5-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile
A solution of 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile (568 mg, 1.54 mmol) in anhydrous MeOH (6.0 mL) was treated with [1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (296 mg, 2.0 mmol), followed by borane-dimethylamine complex (118 mg, 2.0 mmol) at room temperature. The reaction was stirred for 1 hour and then was concentrated to an oil. The oil was purified by flash chromatography (50 g SiO2, 70% ethyl acetate, 6% methanol, 0.5% acetic acid, 23.5% hexanes) to give the desired product as an oil. It was further purified by crystallization from ethyl acetate/hexanes to give a white powder (142 mg, 18%). 1H NMR (400 MHz, CDCl3) δ: 1.11–1.18 (m, 2 H), 1.31–1.52 (m, 10 H), 1.75–1.80 (m, 2 H), 2.16 (t, J=8.84 Hz, 1 H), 2.34 (d, J=17.68 Hz, 1 H), 2.46 (t, J=7.83 Hz, 2 H), 2.59 (d, J=17.94 Hz, 1 H), 3.94 (d, J=3.79 Hz, 2 H), 6.62–6.70 (m, 2 H), 6.97 (t, J=7.83 Hz, 1 H), 7.02–7.04 (m, 1 H), 6.82–6.85 (m, 2 H).

reactant | 1-{4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | 1.54 mmol, 568 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C22H24FNO3
reactant | [1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 2.0 mmol, 296 mg | N1=C(N=C2N1C=CC=N2)C=O | C6H4N4O
solvent | MeOH | 6.0 mL | CO | CH4O
product | {4-[2-(2-Cyclopentyl-4,6-dioxo-5-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl-tetrahydro-pyran-2-yl)-ethyl]-2-fluoro-phenyl}-cyclopropanecarbonitrile | C1(CCCC1)C1(OC(C(C(C1)=O)CC1=NN2C(N=CC=C2)=N1)=O)CCC1=CC(=C(C=C1)C1(CC1)C#N)F | C28H28FN5O3
